US07977351B2
2-[3-(4-Hydroxy-piperidin-1-yl)-propyl]-7H-furo[3,4-b]pyridin-5-one
In a process similar to that described in Preparation 8, 3-(5-Oxo-5,7-dihydro-furo[3,4-b]pyridin-2-yl)-propionaldehyde and 4-hydroxypiperidine are reacted to provide the title compound.

reactant | 3-(5-Oxo-5,7-dihydro-furo[3,4-b]pyridin-2-yl)-propionaldehyde | O=C1OCC2=NC(=CC=C21)CCC=O | C10H9NO3
reactant | 4-hydroxypiperidine | OC1CCNCC1 | C5H11NO
product | 2-[3-(4-Hydroxy-piperidin-1-yl)-propyl]-7H-furo[3,4-b]pyridin-5-one | OC1CCN(CC1)CCCC1=CC=C2C(=N1)COC2=O | C15H20N2O3
